US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(2-(4-ethylpiperazin-1-yl)ethyl)benzamido)-4-phenylbenzoate (0.062 g) in methanol (1.5 mL) and ethyl acetate (1.5 mL), 10% palladium-carbon (0.062 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours and 30 minutes. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure to obtain 0.047 g of tert-butyl 2-(5-(2-(4-ethylpiperazin-1-yl)ethyl)-2-hydroxybenzamido)-4-phenylbenzoate.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(2-(4-ethylpiperazin-1-yl)ethyl)benzamido)-4-phenylbenzoate | 0.062 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)CCN1CCN(CC1)CC | C39H45N3O4
solvent | methanol | 1.5 mL | CO | CH4O
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.062 g | [C].[Pd]
product | tert-butyl 2-(5-(2-(4-ethylpiperazin-1-yl)ethyl)-2-hydroxybenzamido)-4-phenylbenzoate | 0.047 g | C(C)N1CCN(CC1)CCC=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)O | C32H39N3O4
